US06770646B2
c) 2-[-Hydroxy-1-(1-naphthalenyl)methyl]-5-methyl-7-(2-methylpropyl)thieno-[2,3-d]pyridazin-4(5H)-one
Lithium diisopropylamide (6.75 mmol) in tetrahydrofuran (8 ml) and 1-naphthaldehyde (0.7 ml) in tetrahydrofuran (5 ml) were added alternately to a solution of 5-methyl-7-(2-methylpropyl)thieno[2,3-d]pyridazin-4(5H)-one (1 g) prepared in b) above in tetrahydrofuran (20 ml) at 0° C. After 2 hours, water (10 ml) was added, the reaction mixture was acidified with dilute hydrochloric acid and then extracted with ethyl acetate. The organic phase was washed once with dilute hydrochloric acid, twice with saturated sodium hydrogen carbonate solution and once with brine, before being dried and evaporated. Purification by chromatography eluting with isohexane/ethyl acetate (1:1), and subsequent HPLC eluting with the same gave the title compound (0.4 g).

reactant | Lithium diisopropylamide | 6.75 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methyl-7-(2-methylpropyl)thieno[2,3-d]pyridazin-4(5H)-one | 1 g | CN1N=C(C2=C(C1=O)C=CS2)CC(C)C | C11H14N2OS
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | 1-naphthaldehyde | 0.7 ml | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[-Hydroxy-1-(1-naphthalenyl)methyl]-5-methyl-7-(2-methylpropyl)thieno-[2,3-d]pyridazin-4(5H)-one | 0.4 g | OC(C1=CC=CC2=CC=CC=C12)C1=CC2=C(C(=NN(C2=O)C)CC(C)C)S1 | C22H22N2O2S
